US07135472B2
(S, S)-Amino-N-[1-(3-pyridin-3-yl-phenyl)-ethyl]-propionamide
A mixture of (S)-2-tert-butoxycarbonylamino-propionic acid (0.083 mmol), (S)-1-(3-pyridin-3-yl-phenyl)-ethylamine (12.7 mg, 0.064 mmol), EDAC.HCl (18.4 mg, 0.096 mmol), HOBT (13 mg, 0.096 mmol and d iisopropylethylamine (33 μL, 0.192 mmol) ) in DMF (2 mL) was stirred at room temperature for 18 h. The reaction mixture was purified by preparative HPLC (Primeshere C18-HC 21.2×100 mm; (5 mM NH4OAc ) 0–100% gradient over 5 min; 20 mL/min flow rate). The solvents were removed through evaporation on the speed-vac, and the crude product was dissolved in CH2Cl2/TFA (1: 1, 2 mL) and stirred at room temperature for 3 h. The reaction mixture was concentrated on the speed-vac and purified by preparative HPLC (5 mM NH4OAc buffer; gradient 0% to 100% B in 10 min (A: 10% CH3CN/H2O; B: 90% CH3CN/H2O; column: Primesphere C18 HC 21.2×100 mm) to afford the title product.

reactant | (S)-2-tert-butoxycarbonylamino-propionic acid | 0.083 mmol | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | (S)-1-(3-pyridin-3-yl-phenyl)-ethylamine | 0.064 mmol, 12.7 mg | N1=CC(=CC=C1)C=1C=C(C=CC1)[C@H](C)N | C13H14N2
reactant | EDAC.HCl | 0.096 mmol, 18.4 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.096 mmol, 33 μL, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S, S)-Amino-N-[1-(3-pyridin-3-yl-phenyl)-ethyl]-propionamide | N[C@H](C(=O)N[C@@H](C)C1=CC(=CC=C1)C=1C=NC=CC1)C | C16H19N3O
